US07888364B2
A mixture of 1 g of methyl 4-iodobenzoate, 399 mg of 2-oxozolidone, 1.1 g of potassium carbonate, 34 mg of N,N′-dimethylethylenediamine and 73 mg of copper iodide in 10 mL of toluene was heated to 150° C. in a sealed microwave reactor for 2 h. The reaction mixture was diluted with ethyl acetate, washed with H2O, dried (MgSO4) and evaporated. Purified by silica gel chromatography (20-70% ethyl acetate/hexane) to afford methyl 4-(2-oxooxazolidin-3-yl)benzoate. 530 mg of methyl 4-(2-oxooxazolidin-3-yl)benzoate was hydrolyzed via Procedure M to give 4-(2-oxooxazolidin-3-yl)benzoic acid. 70 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(2-oxooxazolidin-3-yl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxooxazolidin-3-yl)benzamide. MS (Q1) 394.2 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 70 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(2-oxooxazolidin-3-yl)benzoic acid | O=C1OCCN1C1=CC=C(C(=O)O)C=C1 | C10H9NO4
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(2-oxooxazolidin-3-yl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)N1C(OCC1)=O)=O)C1=NC=CC=C1 | C21H16ClN3O3
